US07375227B2
431F. 1-(2-Amino-ethyl)-4-benzyl-piperidine-4-carboxylic acid
1-(2-Amino-ethyl)-4-benzyl-piperidine-4-carboxylic acid ethyl ester (2.5 g, 10 mmol) is dissolved in 6N aqueous HCl (40 mL) and the mixture heated at 90° C. for 96 h. The reaction mixture is evaporated to provide the title compound as hydrochloride salt.

reactant | 1-(2-Amino-ethyl)-4-benzyl-piperidine-4-carboxylic acid ethyl ester | 10 mmol, 2.5 g | C(C)OC(=O)C1(CCN(CC1)CCN)CC1=CC=CC=C1 | C17H26N2O2
solvent | HCl | 6N, 40 mL | Cl | ClH
product | 1-(2-Amino-ethyl)-4-benzyl-piperidine-4-carboxylic acid | NCCN1CCC(CC1)(C(=O)O)CC1=CC=CC=C1 | C15H22N2O2
